US04281000
7-(4-Pyridyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile
A mixture of 1.12 g. of 3-dimethylamino-1-(4-pyridyl)-2-propen-1-one and 0.69 g. of 3-aminopyrazole-4-carbonitrile in 25 ml. of glacial acetic acid is refluxed 6 hours. The solvent is removed under reduced pressure and the product worked up as for Example 53 to give 0.60 g. of crystals, m.p. 137°-138° C.

reactant | 3-dimethylamino-1-(4-pyridyl)-2-propen-1-one | CN(C=CC(=O)C1=CC=NC=C1)C | C10H12N2O
reactant | 3-aminopyrazole-4-carbonitrile | NC1=NNC=C1C#N | C4H4N4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-(4-Pyridyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | N1=CC=C(C=C1)C1=CC=NC=2N1N=CC2C#N | C12H7N5
